US07582769B2
3-{2-[3-Cyclohexyl-3-(trans-4-phenoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid
Prepared in an similar manner to {2-[3-cyclohexyl-3-(trans-4-phenoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid via cyclohexyl-(trans-4-phenoxymethyl-cyclohexyl)-amine and (2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester to give the title compound.

reactant | {2-[3-cyclohexyl-3-(trans-4-phenoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)[C@@H]1CC[C@H](CC1)COC1=CC=CC=C1 | C25H33N3O4S2
reactant | cyclohexyl-(trans-4-phenoxymethyl-cyclohexyl)-amine | C1(CCCCC1)N[C@@H]1CC[C@H](CC1)COC1=CC=CC=C1 | C19H29NO
reactant | (2-amino-thiazol-5-ylsulfanyl)-propionic acid ethyl ester | C(C)OC(C(C)SC1=CN=C(S1)N)=O | C8H12N2O2S2
product | 3-{2-[3-Cyclohexyl-3-(trans-4-phenoxymethyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-propionic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCCC(=O)O)=O)[C@@H]1CC[C@H](CC1)COC1=CC=CC=C1 | C26H35N3O4S2
